US06610711B2
1-(2-Bromoethyl)-3-ethylbenzene
To a solution of 3-ethyl-1-vinylbenzene (Preparation 20, 1.45 g, 10.9 mmol) in anhydrous tetrahydrofuran (50 ml) under nitrogen at 0° C. was added diborane (1.0M solution in tetrahydrofuran, 4 ml, 4 mmol) dropwise over 30 min. After 30 min at room temperature, methanol (0.1 ml) was added to destroy excess diborane. The reaction mixture was cooled to 0° C., and bromine (0.59 ml, 11 mmol) and a solution of sodium methoxide in methanol (12.1 mmol) were added via separate syringes at such a rate that a pale yellow coloration was always maintained. The reaction mixture was partitioned between aqueous saturated potassium carbonate solution and hexane. The layers were separated and the aqueous layer was extracted with dichloromethane. The combined extracts were dried (MgSO4), filtered and concentrated in vacuo to afford the crude product. The residue was purified by silica column chromatography eluting with hexane to afford the title compound (640 mg, 28%).

reactant | 3-ethyl-1-vinylbenzene | 10.9 mmol, 1.45 g | C(C)C=1C=C(C=CC1)C=C | C10H12
reactant | diborane | 4 mmol, 1.0M, 4 ml | B#B | B2
reactant | bromine | 11 mmol, 0.59 ml | BrBr | Br2
reactant | sodium methoxide | C[O-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 0.1 ml | CO | CH4O
solvent | methanol | 12.1 mmol | CO | CH4O
product | 1-(2-Bromoethyl)-3-ethylbenzene | 640 mg, 28% | BrCCC1=CC(=CC=C1)CC | C10H13Br
